US08802659B2
methyl 3-(((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)(ethyl)amino)propanoate
N-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)ethanamine (250 mg, 0.64 mmol, 1 equiv) was dissolved in CH3OH (1 mL). Then methyl acrylate (4 mL, 44 mmol, 70 equiv) was added to the mixture and stirred at r.t. for 16 h. The reaction was concentrated and purified by prep-TLC to give the title compound as a white solid (217 mg, 52%). (mobile phase: EA/PE=1:8). ESI-MS (M+1)+: 426.3, HPLC: 97.34%. 1H NMR (400 MHz, CDCl3) δ: 7.71˜7.60 (m, 3H), 7.44˜7.38 (m, 1H), 7.16˜7.09 (m, 2H), 4.30˜4.20 (m, 1H), 3.69 (s, 2H), 3.64 (s, 3H), 2.85 (t, 2H), 2.65˜2.46 (m, 4H), 2.31˜2.24 (m, 2H), 1.92˜1.85 (m, 2H), 1.49˜1.37 (m, 2H), 1.30˜1.10 (m, 3H), 1.05 (t, 3H), 0.89 (s, 9H).

reactant | N-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)ethanamine | 0.64 mmol, 250 mg, 1 equiv | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCC | C23H33NO
reactant | methyl acrylate | 44 mmol, 4 mL, 70 equiv | C(C=C)(=O)OC | C4H6O2
solvent | CH3OH | 1 mL | CO | CH4O
product | methyl 3-(((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)(ethyl)amino)propanoate | 217 mg, 52% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN(CCC(=O)OC)CC | C27H39NO3
